US07101883B2
A suspension of 5-aminouracil (0.3 g, 2.3 mmol) in ethanol: water (25:5 ml) was degassed with nitrogen gas, then palladium hydroxide on carbon was added. The reaction was charged with hydrogen (65 PSI). The reaction was shaken for 5 h, filtered to remove the catalyst and concentrated to give 5-aminodihydro-2,4(1H,3H)-pyrimidinedione (0.3 g, 100%) as a white solid. MS found: (M+H)+=130.

reactant | 5-aminouracil | 2.3 mmol, 0.3 g | NC=1C(NC(NC1)=O)=O | C4H5N3O2
solvent | ethanol | C(C)O | C2H6O
product | 5-aminodihydro-2,4(1H,3H)-pyrimidinedione | 0.3 g, 100% | NC1C(NC(NC1)=O)=O | C4H7N3O2
